US04963590
5-(3,4-Dimethoxyphenyl)-5-ketopentanoic acid
A solution containing 36 g of veratrole and 30 g glutaric anhydride in 120 ml of nitrobenzene was gradually added while stirring and cooling at 0° C. to a mixture of 72 g of anhydrous aluminium chloride and 240 ml of nitrobenzene. The mixture was stirred for 1 h at 0° C. and then for 18 h at 20° C. Ice and hydrochloric acid were added to the reaction mixture. Nitrobenzene layer was separated and to this ethyl acetate was added whereupon the product crystallized. After filtering the crystals were washed with ethyl acetate. Yield 42.3 g (64%).

reactant | veratrole | 36 g | C=1(C(OC)=CC=CC1)OC | C8H10O2
reactant | glutaric anhydride | 30 g | C1(CCCC(=O)O1)=O | C5H6O3
reactant | aluminium chloride | 72 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
solvent | nitrobenzene | 120 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | nitrobenzene | 240 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 5-(3,4-Dimethoxyphenyl)-5-ketopentanoic acid | COC=1C=C(C=CC1OC)C(CCCC(=O)O)=O | C13H16O5
